US08022209B2
To a solution of 2,4-dichloropyrimidine (740 mg, 5 mmol) in EtOH (15 mL) was slowly added 1-methylpiperazine (550 mg, 5.5 mmol). The resulting mixture was stirred at room temperature overnight, then was concentrated, diluted with water, and extracted with CH2Cl2. The organic layer was dried and concentrated to yield 2-chloro-4-(4-methyl-piperazin-1-yl)-pyrimidine.

reactant | 2,4-dichloropyrimidine | 5 mmol, 740 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 1-methylpiperazine | 5.5 mmol, 550 mg | CN1CCNCC1 | C5H12N2
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-chloro-4-(4-methyl-piperazin-1-yl)-pyrimidine | ClC1=NC=CC(=N1)N1CCN(CC1)C | C9H13ClN4
